US09035015B1
To a 100 mL Schlenk flask was placed 250 mg (0.29 mmol) of 2,5-bis(5-bromo-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole. The flask was evacuated and refilled with Ar three times, 35 mL of dry THF was added to the flask. The flask was subsequently cooled to −78° C. n-Butyl lithium (0.64 mmol) was then added dropwise to the above solution. After the solution was stirred at −78° C. for 1 hour, 0.7 mL of 1.0 M solution of trimethyl tin chloride was syringed into the reaction mixture. After the solution was allowed to warm up to room temperature, 100 mL of diethyl ether was added to the solution. The solution was washed three times with 100 mL of water and then the organic layer was dried over anhydrous MgSO4. After the solvent was removed in vacuum, 2,5-bis(5-trimethylstannyl-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole was isolated in quantitative yield.

reactant | 2,5-bis(5-bromo-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole | 0.29 mmol, 250 mg | BrC1=CC(=C(S1)C=1SC=2N=C(SC2N1)C=1SC(=CC1CCCCCCCCCCCCCC)Br)CCCCCCCCCCCCCC | C40H60Br2N2S4
reactant | n-Butyl lithium | 0.64 mmol | C(CCC)[Li]
reactant | trimethyl tin chloride | C[Sn](C)(C)Cl
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2,5-bis(5-trimethylstannyl-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole | quantitative yield | C[Sn](C1=CC(=C(S1)C=1SC=2N=C(SC2N1)C=1SC(=CC1CCCCCCCCCCCCCC)[Sn](C)(C)C)CCCCCCCCCCCCCC)(C)C | InChI=1S/C40H60N2S4.6CH3.2Sn/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-33-29-31-43-35(33)37-41-39-40(45-37)42-38(46-39)36-34(30-32-44-36)28-26-24-22-20-18-16-14-12-10-8-6-4-2;;;;;;;;/h29-30H,3-28H2,1-2H3;6*1H3;;
